US08610345B2
A mixed solution of 8.0 g of 1-bromo-6-(4-methylphenyl)pyrene, 4.5 g of 3,5-dichlorophenylboronic acid, 9.2 g of tripotassium phosphate, 1.4 g of tetrabutylammonium bromide, 97 mg of palladium acetate and 215 ml of dimethylformamide was heated and stirred under a nitrogen gas stream at 120° C. for 5 hours. The solution was cooled to room temperature and 1.0 L of water was poured into the solution, followed by extraction with 600 ml of dichloromethane. The organic layer was washed twice with 200 ml of water, dried over magnesium sulfate and then filtered through Celite. The filtrate was evaporated and the residue was washed twice with 200 ml of ethyl acetate, and then the precipitated solid was collected by filtration. The precipitated solid was recrystallized from 100 ml of dimethylformamide and then vacuum-dried to obtain 5.5 g of 1-(3,5-dichlorophenyl)-6-(4-methylphenyl)pyrene.

reactant | 1-bromo-6-(4-methylphenyl)pyrene | 8.0 g | BrC1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=C(C=C3)C | C23H15Br
reactant | 3,5-dichlorophenylboronic acid | 4.5 g | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
reactant | tripotassium phosphate | 9.2 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dimethylformamide | 215 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium bromide | 1.4 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 97 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 1.0 L | O | H2O
product | 1-(3,5-dichlorophenyl)-6-(4-methylphenyl)pyrene | 5.5 g | ClC=1C=C(C=C(C1)Cl)C1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=C(C=C3)C | C29H18Cl2
